US09024093B2
(2,4,6-Trimethylphenyl)triethoxysilane (S55)
To tetraethyl orthosilicate (3.30 mL, 15.0 mmol, 3.00 equiv) in 10 mL of THF at −30° C. was added 2,4,6-trimethylphenylmagnesium bromide solution (1.0 M in THF, 5.0 mL, 5.0 mmol, 1.0 equiv) dropwise over 10 min. After stiffing at −30° C. for 1 h, the reaction mixture was warmed to 23° C. and was further stirred for 12 h. The reaction mixture was poured into 100 mL of pentane, and was washed three times with water (3×20 mL) and dried over Na2SO4. After filtration, the solvent was removed under reduced pressure. Bulb-to-bulb distillation (125° C., 0.5 Torr) afforded 0.87 g of the title compound as a colorless oil (62% yield). Rf=0.14 (hexanes). NMR Spectroscopy: 1H NMR (500 MHz, CDCl3, 23° C., δ): 6.80 (s, 2H), 3.83 (q, J=7.0 Hz, 6H), 2.51 (s, 6H), 2.26 (s, 3H), 1.24 (t, J=7.0 Hz, 9H). 13C NMR (125 MHz, CDCl3, 23° C., δ): 145.92, 139.79, 128.81, 124.99, 58.10, 23.73, 21.08, 18.15.

reactant | tetraethyl orthosilicate | 15.0 mmol, 3.30 mL, 3.00 equiv | [Si](OCC)(OCC)(OCC)OCC | C8H20O4Si
reactant | 2,4,6-trimethylphenylmagnesium bromide | 5.0 mmol, 1.0 M, 5.0 mL, 1.0 equiv | CC1=C(C(=CC(=C1)C)C)[Mg]Br
reactant | pentane | 100 mL | CCCCC | C5H12
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (2,4,6-Trimethylphenyl)triethoxysilane | 0.87 g, 62% yield | CC1=C(C(=CC(=C1)C)C)[Si](OCC)(OCC)OCC | C15H26O3Si
